US09376441B2
To the TFA salt of (R)-4-((R)-1-((1-cyclopropyl-5-(5-(piperazin-1-yl)pyridin-2-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one: 3.58 (45 mg, 0.1 mmol) in DCM (1 mL) and TEA (0.07 mL, 0.5 mmol) was added methanesulfonic anhydride (26 mg, 0.15 mmol) and the mixture was stirred at rt for 1 h. The mixture was then concentrated and purified by prep HPLC (MeCN:water gradient; TFA modified) to give (R)-4-((R)-1-((1-cyclopropyl-5-(5-(4-(methylsulfonyl)piperazin-1-yl)pyridin-2-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one: 3.60 as a TFA salt. The salt was then converted to the free base with MP carbonate resin.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-4-((R)-1-((1-cyclopropyl-5-(5-(piperazin-1-yl)pyridin-2-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | C1(CC1)N1C=NC2=C1C(=CC(=C2)C2=NC=C(C=C2)N2CCNCC2)O[C@H](C)[C@@H]2CC(NC2)=O | C25H30N6O2
reactant | methanesulfonic anhydride | 0.15 mmol, 26 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-((R)-1-((1-cyclopropyl-5-(5-(4-(methylsulfonyl)piperazin-1-yl)pyridin-2-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | C1(CC1)N1C=NC2=C1C(=CC(=C2)C2=NC=C(C=C2)N2CCN(CC2)S(=O)(=O)C)O[C@H](C)[C@@H]2CC(NC2)=O | C26H32N6O4S
